US04996341
Synthesis of 1,2-diisopropyl-1,1,2,2-tetraphenyldisilane
A 1 liter three necked flask was charged with 200 ml of dry THF and then 5.04 g (0.73 mole) of small pieces of lithium metal was quickly added. To this was added dropwise 155 g of diphenylisopropylchlorosilane (purity: 94% by weight, 0.56 mole) at a room temperature over 2 hours. A mildly exothermic reaction was observed. After the dropwise addition, the reaction mixture was agitated for 3 days. The reaction mixture turned red purple. The formed salt and the solvent were removed from tho reaction mixture. To the residue was added about 300 ml of benzene, whereby the residue was dissolved therein. The benzene solution was washed with a saturated aqueous solution of ammonium chloride (300 ml×3 times) and then with water (300 ml×1 time) and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated to give 128 g of a crude product in a pale yellow solid.

reactant | lithium | [Li] | Li
reactant | diphenylisopropylchlorosilane | 0.56 mole, 155 g | C1(=CC=CC=C1)[Si](Cl)(C(C)C)C1=CC=CC=C1 | C15H17ClSi
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1,2-diisopropyl-1,1,2,2-tetraphenyldisilane | 128 g | C(C)(C)[Si]([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34Si2
